data/polar.json
{"reaction_name": "General nucleophilic addition to an iminium C=N+ center", "rsmi": "[CH:3]1=[CH:9][c:10]2[cH:17][cH:16][cH:24][cH:11][c:18]2[CH:25]1[Na:20].[c:1]12[c:5]([cH:14][cH:12][cH:22][cH:7]1)-[c:6]1[c:2]([cH:8][cH:23][cH:13][cH:15]1)[N+:21]2=[CH:4][CH3:19]>>[Na+:20].[c:1]12[c:5]([c:6]3[c:2]([cH:8][cH:23][cH:13][cH:15]3)[n:21]1[CH:4]([CH3:19])[CH:25]1[CH:3]=[CH:9][c:10]3[cH:17][cH:16][cH:24][cH:11][c:18]31)[cH:14][cH:12][cH:22][cH:7]2", "epd": [["Sigma-/Sigma+", [25, 20], [25, 4]], ["Pi-/LP+", [4, 21], [21]]]}
{"reaction_name": "Reductive-amination iminium capture step", "rsmi": "[CH:1]([CH3:2])=[N+:5]([CH3:3])[CH3:4].[H-:6]>>[CH:1]([CH3:2])([N:5]([CH3:3])[CH3:4])[H:6]", "epd": [["LP-/Sigma+", [6], [1, 6]], ["Pi-/LP+", [1, 5], [5]]]}
{"reaction_name": "σ-Adduct formation on a neutral electron-poor arene / heteroarene", "rsmi": "[N+:2](=[O:3])([c:13]1[cH:11][c:14]([N+:21](=[O:10])[O-:26])[cH:23][c:12]2[c:28]1[n:20][o:27][n+:34]2[O-:5])[O-:17].[cH:1]1[cH:18][cH:24][c:16]([B-:4]2([CH2:22][CH:15]=[CH2:31])[O:32][C:29]([CH3:6])([CH3:7])[C:30]([CH3:8])([CH3:9])[O:33]2)[cH:25][cH:19]1>>[cH:1]1[cH:18][cH:24][c:16]([B-:4]2([CH2:22][CH+:15][CH2:31][CH:23]3[c:12]4[c:28]([n:20][o:27][n+:34]4[O-:5])[C:13]([N+:2](=[O:3])[O-:17])=[CH:11][C:14]3=[N+:21]([O-:10])[O-:26])[O:32][C:29]([CH3:6])([CH3:7])[C:30]([CH3:8])([CH3:9])[O:33]2)[cH:25][cH:19]1", "epd": [["Pi-/Sigma+", [31, 15], [31, 23]], ["Pi-/Pi+", [23, 14], [14, 21]], ["Pi-/LP+", [21, 10], [10]]]}
{"reaction_name": "Formose-type disproportionation", "rsmi": "[C:1]([H:3])([H:4])=[O:7].[C:2]([H:5])([H:6])=[O:8].[H:9][O-:10]>>[C:1]([H:4])(=[O:7])[O-:10].[C:2]([H:3])([H:5])([H:6])[O:8][H:9]", "epd": [["Sigma-/LP+", [9, 10], [10]], ["LP-/Sigma+", [10], [1, 10]], ["Pi-/LP+", [1, 7], [7]], ["LP-/Pi+", [7], [1, 7]], ["Pi-/LP+", [2, 8], [8]], ["LP-/Sigma+", [8], [8, 9]], ["Pi-/LP+", [1, 7], [7]], ["LP-/Pi+", [7], [1, 7]], ["Sigma-/Sigma+", [1, 3], [2, 3]]]}
{"reaction_name": "Nucleophilic addition to an oxocarbenium C=O+ center", "rsmi": "[CH:2](=[O+:18][CH3:17])[c:20]1[cH:15][cH:13][cH:6][cH:14][cH:16]1.[cH:1]1[cH:7][cH:4][c:11]2[c:3]([cH:19]1)[CH:21]([Zn-:10]([Cl:8])[Cl:9])[CH:12]=[CH:5]2>>[Cl:8][Zn:10][Cl:9].[cH:1]1[cH:7][cH:4][c:11]2[c:3]([cH:19]1)[CH:21]([CH:2]([O:18][CH3:17])[c:20]1[cH:15][cH:13][cH:6][cH:14][cH:16]1)[CH:12]=[CH:5]2", "epd": [["Sigma-/Sigma+", [21, 10], [21, 2]], ["Pi-/LP+", [2, 18], [18]]]}
{"reaction_name": "Carbocationic alkene formation", "rsmi": "[C+:2]([CH2:3][H:6])([CH3:4])[CH3:5].[OH2:1]>>[C:2](=[CH2:3])([CH3:4])[CH3:5].[OH2+:1][H:6]", "epd": [["LP-/Sigma+", [1], [1, 6]], ["Sigma-/Pi+", [3, 6], [2, 3]]]}
{"reaction_name": "Imidoyl chloride substitution", "rsmi": "[C:1](=[NH:2])([CH3:3])[Cl:5].[NH2:4][H:6]>>[C:1](=[NH:2])([CH3:3])[NH2:4].[Cl:5][H:6]", "epd": [["LP-/Sigma+", [4], [1, 4]], ["Pi-/LP+", [1, 2], [2]], ["LP-/Pi+", [2], [1, 2]], ["Sigma-/LP+", [1, 5], [5]], ["LP-/Sigma+", [5], [5, 6]], ["Sigma-/LP+", [4, 6], [4]]]}
{"reaction_name": "Michael addition", "rsmi": "[O:1]=[C:31]1[N:5]([CH3:28])[C:30](=[O:7])[N:6]([CH3:29])[C:32](=[O:2])[C:18]1=[CH:20][c:8]1[cH:34][cH:3][c:19]([O:12][CH3:10])[cH:4][cH:35]1.[c:9]1([S:23](=[O:26])(=[O:27])[CH-:36][c:15]2[cH:13][cH:24][cH:33][cH:25][cH:14]2)[cH:16][cH:21][cH:11][cH:22][cH:17]1>>[O-:1][c:31]1[n:5]([CH3:28])[c:30](=[O:7])[n:6]([CH3:29])[c:32](=[O:2])[c:18]1[CH:20]([c:8]1[cH:34][cH:3][c:19]([O:12][CH3:10])[cH:4][cH:35]1)[CH:36]([c:15]1[cH:13][cH:24][cH:33][cH:25][cH:14]1)[S:23]([c:9]1[cH:16][cH:21][cH:11][cH:22][cH:17]1)(=[O:26])=[O:27]", "epd": [["LP-/Sigma+", [36], [36, 20]], ["Pi-/Pi+", [20, 18], [18, 31]], ["Pi-/LP+", [31, 1], [1]]]}
{"reaction_name": "π-Nucleophile capture of a preformed localized carbocation", "rsmi": "[O:1]([CH3:3])[c:23]1[cH:5][cH:22][cH:6][c:24]([O:2][CH3:4])[cH:11]1.[cH:7]1[c:12]([CH+:27][c:13]2[cH:8][c:16]([F:20])[cH:26][c:17]([F:21])[cH:9]2)[cH:10][c:14]([F:18])[cH:25][c:15]1[F:19]>>[O+:1]([CH3:3])=[C:23]1[CH:5]([CH:27]([c:12]2[cH:7][c:15]([F:19])[cH:25][c:14]([F:18])[cH:10]2)[c:13]2[cH:8][c:16]([F:20])[cH:26][c:17]([F:21])[cH:9]2)[CH:22]=[CH:6][C:24]([O:2][CH3:4])=[CH:11]1", "epd": [["LP-/Pi+", [1], [1, 23]], ["Pi-/Sigma+", [5, 22], [5, 27]], ["Pi-/Pi+", [6, 24], [6, 22]], ["Pi-/Pi+", [11, 23], [11, 24]]]}
{"reaction_name": "Electrophilic SCF3 transfer by substitution at sulfur", "rsmi": "[N:1]1([S:3][C:18]([F:4])([F:5])[F:6])[S:2](=[O:25])(=[O:26])[c:7]2[c:30]([cH:29][cH:9][cH:31][cH:33]2)[C:32]1=[O:22].[cH:8]1[cH:15][cH:10][c:21]([C:17](=[C:12]2[N:13]([CH3:27])[C:19]([CH3:24])=[C:34]([CH3:28])[S:20]2)[O:23][CH3:14])[cH:11][cH:16]1>>[N:1]1=[C:32]([O-:22])[c:30]2[c:7]([cH:33][cH:31][cH:9][cH:29]2)[S:2]1(=[O:25])=[O:26].[S:3]([C:17]([c:12]1[n+:13]([CH3:27])[c:19]([CH3:24])[c:34]([CH3:28])[s:20]1)([c:21]1[cH:10][cH:15][cH:8][cH:16][cH:11]1)[O:23][CH3:14])[C:18]([F:4])([F:5])[F:6]", "epd": [["LP-/Pi+", [13], [12, 13]], ["Pi-/Sigma+", [17, 12], [17, 3]], ["Sigma-/Pi+", [3, 1], [1, 32]], ["Pi-/LP+", [32, 22], [22]]]}
